US05646310
A mixture of 42.0 g of ethyl 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carboxylate, 88 g of stannous chloride and 500 ml of ethyl alcohol was heated while refluxing for 2 hours. A 2N aqueous solution of sodium hydroxide was added to the reaction mixture, followed by extracting with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and then concentrated under (reduced pressure to obtain 5,2 g of ethyl 6-amino-2,2-bisfluoromethyl-2H-1-benzopyran-4-carboxylate as an oily substance.

reactant | ethyl 2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran-4-carboxylate | 42.0 g | FCC1(OC2=C(C(=C1)C(=O)OCC)C=C(C=C2)[N+](=O)[O-])CF | C14H13F2NO5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl alcohol | 500 ml | C(C)O | C2H6O
product | ethyl 6-amino-2,2-bisfluoromethyl-2H-1-benzopyran-4-carboxylate | 5,2 g | NC=1C=CC2=C(C(=CC(O2)(CF)CF)C(=O)OCC)C1 | C14H15F2NO3
